US04399134
In a 100 ml flask were placed 6.1 g of 8-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, 9.5 g of 4-hydroxypiperidine and 60 ml of N-methylpyrrolidone and the mixture was stirred at 150° C. in an argon gas atmosphere. After 6 hours, N-methylpyrrolidone and excessive 4-hydroxypiperidine were removed under reduced pressure. To the residue were added dimethylformamide, ethanol and water and allowed to stand overnight to give 2.3 g of crude crystals which were recrystallized from ethanol-water to give 1.8 g of 8-(4-hydroxy-1-piperidyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid. m.p. 238°-240° C.

reactant | 8-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 6.1 g | ClC1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | C14H12ClNO3
reactant | 4-hydroxypiperidine | 9.5 g | OC1CCNCC1 | C5H11NO
solvent | N-methylpyrrolidone | 60 ml | CN1C(CCC1)=O | C5H9NO
product | 8-(4-hydroxy-1-piperidyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 1.8 g | OC1CCN(CC1)C1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | C19H22N2O4
